US08895607B2
N-Cbz-4-hydroxyproline (40.00 g, 150.8 mmol) 8 was dissolved into 110 mL DMF. To this mixture was added 45.85 g of K2CO3 (2.2 eq; 331.7 mmol) and 2.30 g of NaI (0.1 eq). The reaction flask was purged with argon and 55.4 mL of benzylbromide (3 eq; 452 mmol) was added dropwise. This mixture was then stirred over night at room temperature. The reaction was then diluted with 300 mL ethyl acetate and washed with water (8×200 mL) to remove DMF, followed by washing with 100 mL brine. The organic layer was dried over Na2SO4 and concentrated to a yellow oil. The oil was then washed several times with 100 mL hexanes to remove any remaining benzyl bromide and then separated by silica gel in hexanes:ethyl acetate, 3:2, isolating N-Cbz-4-hydroxyproline benzyl ester at Rf=0.25 in nearly quantitative yield. 1H and 13C NMR spectra were in agreement with 1H and 13C NMR spectra previously reported (Robinson et al., 1998).

reactant | N-Cbz-4-hydroxyproline | 150.8 mmol, 40.00 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CC(C1)O | C13H15NO5
reactant | K2CO3 | 331.7 mmol, 45.85 g, 2.2 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 2.30 g, 0.1 eq | [Na+].[I-]
reactant | benzylbromide | 452 mmol, 55.4 mL, 3 eq | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 110 mL | CN(C)C=O | C3H7NO
product | N-Cbz-4-hydroxyproline benzyl ester | quantitative yield | C(C1=CC=CC=C1)OC([C@H]1N(CC(C1)O)C(=O)OCC1=CC=CC=C1)=O | C20H21NO5
